US09353107B2
Step-iii: 3-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-amine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl (3-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)carbamate (90 mg, 0.179 mmol) was deprotected in TFA (10 mL) to afford 15 mg (16.3% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.47 (s, 1H), 8.42-8.41 (d, 1H), 8.26-8.21 (m, 2H), 8.11-0.810 (d, 1H), 7.98 (s, 1H), 7.69 (s, 1H), 7.41-7.33 (m, 1H), 7.12-6.99 (m, 3H), 5.44 (s, 2H). MS: m/z=403.4 (M+1), HPLC: 97.56% in method A.

reactant | tert-butyl (3-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)carbamate | 0.179 mmol, 90 mg | FC=1C(=NC=C(C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)NC(OC(C)(C)C)=O | C27H24F2N6O2
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-amine | 15 mg, 16.3% yield | FC=1C(=NC=C(C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)N | C22H16F2N6
